US07351742B2
Preparation 12: [4-(2-Hydroxy-2-methylpropyl)phenyl]acetic acid
The carboxylic acid of preparation 11 (18.26 g, 82.0 mmol) was dissolved in tetrahydrofuran (450 ml) and the solution cooled to 0° C. and treated dropwise with a solution of methylmagnesium chloride in tetrahydrofuran (82 ml, 246 mmol). The reaction mixture was allowed to warm to room temperature and left to stand for 18 hours. The reaction mixture was slowly diluted with water (80 ml) followed by 2M hydrochloric acid (120 ml, 240 mmol). The mixture was extracted with ethyl acetate (3×100 ml) and the organic extracts combined and washed with brine (3×50 ml). The ethyl acetate phase was dried (magnesium sulphate) and concentrated in vacuo. The residue was purified by column chromatography on silica gel eluting with dichloromethane:methanol:acetic acid (99.6:0:0.4 changing to 94.6:5:0.4) to yield the title product as a colourless solid.

reactant | methylmagnesium chloride | C[Mg]Cl
reactant | hydrochloric acid | 240 mmol, 2M, 120 ml | Cl | ClH
reactant | tetrahydrofuran | 450 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 246 mmol, 82 ml | O1CCCC1 | C4H8O
solvent | water | 80 ml | O | H2O
product | [4-(2-Hydroxy-2-methylpropyl)phenyl]acetic acid | OC(CC1=CC=C(C=C1)CC(=O)O)(C)C | C12H16O3
